US07105682B2
Step A: Preparation of 1-(2-morpholin-4-ylethyl)indol-6-ylamine
K2CO3 (5.08 g, 36.726 mmol) was added to a slurry of 6-nitroindole (1.985 g, 12.242 mmol), 4-(2-chloroethyl) morpholine hydrochloride (2.278 g, 12.242 mmol), and CH3CN (100 ml). The mix was heated to reflux for 18 h, then cooled to RT, filtered, and concentrated in vacuo. The crude was eluted through a silica gel column with a gradient of 3:97 to 5:95 and finally 8:92 MeOH/CH2Cl2, to yield upon drying the desired intermediate which was hydrogenated under conditions previously described.

reactant | K2CO3 | 36.726 mmol, 5.08 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 6-nitroindole | 12.242 mmol, 1.985 g | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | 4-(2-chloroethyl) morpholine hydrochloride | 12.242 mmol, 2.278 g | Cl.ClCCN1CCOCC1
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | 1-(2-morpholin-4-ylethyl)indol-6-ylamine | N1(CCOCC1)CCN1C=CC2=CC=C(C=C12)N | C14H19N3O
